US04351977
Bicyclo[10.3.0]pentadec-1(12)-ene
6.06 g of bicyclo[10.3.0]pentadec-1,12-diene--crude material; see Example 1--in 40 ml of toluene were hydrogenated at 100°, under atmospheric pressure, in the presence of 0.6 g of 10% palladium on charcoal. After 60 min. of hydrogenation, the reaction mixture was cooled, filtered on CELITE and finally distilled (0.02 Torr--bath temperature: 140°) to afford 5.2 g (84% yield) of the desired title compound having a purity of 93% according to vapour phase chromatography analysis (CARBOWAX 10%--1.6 m--140°). The compound thus prepared was found identical with a sample prepared according to J. Amer. Chem. Soc. 79, 5558 (1957).

reactant | bicyclo[10.3.0]pentadec-1,12-diene | 6.06 g | C12=CCCCCCCCCCC2=CCC1 | C15H24
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on charcoal | 0.6 g | [Pd] | Pd
product | Bicyclo[10.3.0]pentadec-1(12)-ene | 5.2 g, 84% yield | C1=2CCCCCCCCCCC2CCC1 | C15H26
